Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
EGD
Colonoscopy

 
History of Present Illness:
___ yo man with a hitory of AVR x3 who presented to ___ on 
___ for evaluation of maroon stools. The patient had a 
mechanical fall approx 3 days ago with residual right-sided rib 
and abdominal pain. On the morning of ___, he noted maroon 
stools with continued rib and abdominal pain and thought the two 
events might be related so presented for evaluation. 
.
He initially denied having prior episodes, but now admits to 
probably approximately 12 episodes of maroon colored stools that 
he attributed to his vitamins and iron pills. He never had pain 
before and, so, did not pursue care. He endorses mild RLQ pain 
and 1 week of loose stools but no other abdominal pain, no 
nausea or vomiting, no constipation. He denies feeling symptoms 
of anemia (fatigue, orthostasis, doe, palpitations, chest pain). 
He denies bleeding from other sites (bruising, bleeding gums, 
epistaxis). He notes he was supratheraputic on couamdin for the 
last couple days, so held his coumadin and ate some green leafy 
vegetables. He thinks last dose of coumadin a couple days ago. 
.  
The patient was transferred from ___ to ___.  In 
the ___, initial vitals were T 99.0 HR 60 BP 139/80 RR 16 Sat 
100% on 2L NC. He was guaiac +.  
.  
On further review of systems, he endorses weight loss over the 
last year since getting divorced which he attributes to poor po 
given does not enjoy cooking like he used to (unable to quantify 
how much but feel clothes looser than they were), cough and 
nasal congestion for the last ___ weeks, and difficulty with 
memory since his last valve surgery ___. He denies any fevers, 
chills, night sweats, HA, prior history of stroke, TIA, deep 
venous thrombosis, pulmonary embolism, bleeding at the time of 
surgery, myalgias, joint pains, cough, hemoptysis, rash.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
 
Past Medical History:
CARDIAC RISK FACTORS: none.  
.
CARDIAC HISTORY:  s/p AVR x3, last ___ with St. ___ #21, for 
bicuspid aortic valve  
.
OTHER PAST MEDICAL HISTORY:   
Presence of venous angioma vs AV malformation seen on prior MRAs
h/o polio
alcohol abuse, with admissions in the past for detox
benign familial tremors
Depression
abdominal lymphadenopathy
.
Surgical History:
s/p traumatic splenectomy
s/p Hernia repair
AVN of bilateral hips
s/p right thumb surgery
s/p ACL repair

 
Social History:
___
Family History:
Parents died young. Mother history of depression and essential 
tremor.  GM with open heart surgery (unclear indication) 
 
Physical Exam:
VS: T 98.4 Tm 99.1 122/75  60  20  96%RA  89.4 kg 
GENERAL: Pleasant man in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma. 
Two 1 cm shallow cuts covered with crusting blood on bridge of 
nose.
NECK: Supple with JVP of 6 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, mechanincal S2. III/VI HSM at the right 
upper sternal border but heard throughout. No thrills, lifts. No 
S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi. No ecchymosis in area of trauma on right 
___ ribs but area was tender to palpation.  
ABDOMEN: Soft, ND. Tender in RU and RLQs. Hyperactive bowel 
sounds. No HSM or masses. Abd aorta not enlarged by palpation. 
No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: Very dry skin on B lower extremities, no rashes or 
ecchymosis.  
PULSES:  
Right: Carotid 2+ DP 1+ ___ 2+  
Left: Carotid 2+ DP 1+ ___ 2+
 
Pertinent Results:
Radiology:  
CT scan:  1. New finding of soft-tissue filling defect within 
the collecting system on the right. The main differential 
consideration would be transitional cell carcinoma. In this 
patient with a history of lymphadenopathy, lymphoma could also 
be considered. Correlation with urinalysis and urological 
assessment is recommended. 
2. The vast majority of the lymph nodes within the chest, 
abdomen, and pelvis are stable in size. Some have decreased in 
size. No new clusters of lymphadenopathy are identified.   
3. Stable trace pleural effusion/pleural thickening. 
4. Bilateral AVN of the femoral heads, Ficat Stage II, unchanged
.
Microbiology: 
___ 5:00 am SEROLOGY/BLOOD.
  HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      NEGATIVE BY EIA. 
.
Urine Culture ___: No growth.
.
Cytology:
Bladder washing:  Negative for malignant cells
.
Lab Results:
___ 08:00PM BLOOD WBC-9.1 RBC-3.30* Hgb-10.3* Hct-32.7* 
MCV-99* MCH-31.1 MCHC-31.4 RDW-18.2* Plt ___
___ 05:25AM BLOOD WBC-10.4 RBC-3.12* Hgb-10.0* Hct-30.5* 
MCV-98 MCH-31.9 MCHC-32.6 RDW-17.8* Plt ___
___ 05:02PM BLOOD Hct-30.6*
___ 09:05PM BLOOD Hct-31.8*
___ 05:00AM BLOOD WBC-9.2 RBC-3.14* Hgb-9.9* Hct-30.8* 
MCV-98 MCH-31.7 MCHC-32.3 RDW-17.8* Plt ___
___ 05:00AM BLOOD WBC-14.3*# RBC-3.07* Hgb-9.7* Hct-29.9* 
MCV-98 MCH-31.6 MCHC-32.4 RDW-17.7* Plt ___
___ 09:05AM BLOOD WBC-10.4 RBC-3.37* Hgb-10.5* Hct-33.6* 
MCV-100* MCH-31.2 MCHC-31.2 RDW-17.5* Plt ___
___ 05:05AM BLOOD WBC-8.7 RBC-3.04* Hgb-9.8* Hct-30.2* 
MCV-99* MCH-32.2* MCHC-32.4 RDW-18.4* Plt ___
___ 05:00AM BLOOD WBC-10.4 RBC-3.08* Hgb-9.8* Hct-30.4* 
MCV-99* MCH-32.0 MCHC-32.3 RDW-18.0* Plt ___
___ 05:31AM BLOOD WBC-8.5 RBC-3.14* Hgb-9.9* Hct-31.0* 
MCV-99* MCH-31.6 MCHC-32.0 RDW-17.9* Plt ___
___ 05:50AM BLOOD WBC-10.2 RBC-3.16* Hgb-9.8* Hct-30.9* 
MCV-98 MCH-31.1 MCHC-31.8 RDW-18.0* Plt ___
.
___ 08:00PM BLOOD ___ PTT-39.9* ___
___ 05:25AM BLOOD ___ PTT-37.8* ___
___ 05:02PM BLOOD ___
___ 05:00AM BLOOD ___ PTT-32.6 ___
___ 05:00AM BLOOD ___ PTT-136.6* ___
___ 01:05PM BLOOD ___ PTT-45.0* ___
___ 09:05AM BLOOD ___ PTT-46.3* ___
___ 09:51PM BLOOD ___ PTT-51.1* ___
___ 05:05AM BLOOD ___ PTT-92.7* ___
___ 10:35AM BLOOD ___ PTT-110.3* ___
___ 05:00AM BLOOD ___ PTT-74.3* ___
___ 06:40PM BLOOD ___ PTT-77.1* ___
___ 05:31AM BLOOD ___ PTT-102.1* ___
___ 05:50AM BLOOD ___ PTT-116.3* ___
.
___ 08:00PM BLOOD Glucose-90 UreaN-12 Creat-0.8 Na-141 
K-3.9 Cl-101 HCO3-32 AnGap-12
___ 05:25AM BLOOD Glucose-143* UreaN-12 Creat-0.9 Na-140 
K-3.9 Cl-103 HCO3-31 AnGap-10
___ 05:00AM BLOOD Glucose-96 UreaN-6 Creat-0.8 Na-140 K-4.0 
Cl-103 HCO3-32 AnGap-9
___ 05:00AM BLOOD Glucose-112* UreaN-10 Creat-0.8 Na-137 
K-3.8 Cl-102 HCO3-27 AnGap-12
___ 09:05AM BLOOD Glucose-107* UreaN-5* Creat-0.8 Na-139 
K-4.2 Cl-103 HCO3-28 AnGap-12
___ 05:05AM BLOOD Glucose-99 UreaN-8 Creat-0.8 Na-133 K-3.8 
Cl-97 HCO3-31 AnGap-9
___ 05:00AM BLOOD Glucose-93 UreaN-9 Creat-0.8 Na-138 K-3.8 
Cl-102 HCO3-30 AnGap-10
___ 05:31AM BLOOD Glucose-107* UreaN-10 Creat-0.8 Na-139 
K-4.4 Cl-102 HCO3-30 AnGap-11
___ 05:50AM BLOOD Glucose-99 UreaN-11 Creat-0.9 Na-136 
K-4.4 Cl-100 HCO3-32 AnGap-8
.
___ 05:25AM BLOOD ALT-30 AST-51* LD(LDH)-537* AlkPhos-66 
TotBili-1.0
.
___ 08:00PM BLOOD cTropnT-<0.01
.
___ 05:25AM BLOOD Albumin-3.9 Calcium-8.9 Phos-3.1 Mg-2.3 
Iron-52
___ 05:00AM BLOOD Calcium-8.6 Phos-3.4 Mg-2.2
.
___ 05:25AM BLOOD calTIBC-308 VitB12-581 Folate-GREATER TH 
Hapto-<20* Ferritn-47 TRF-237
___ 05:02PM BLOOD Hapto-<20*
___ 05:00AM BLOOD Hapto-<20*
.
___ 08:00PM BLOOD Ethanol-NEG

 
Brief Hospital Course:
___ year old man with a history of St. ___ AVR after two 
previous valve replacements secondary to bicuspid aortic valve 
was admitted for evaluation of GI bleed while on coumadin.    
.  
# GI bleed:   Found to be secondary to gastritis based on EGD 
results of erythema and erosion of the mucosa in the antrum and 
stomach body.  Colonoscopy showed no abnormalities.  GI was 
consulted during the admission.  They recommended H pylori 
testing, which was negative, and capsule endoscopy to be 
completed as an outpatient for complete work up of GI bleed.  
Patient instructed to schedule capsule endoscopy as outpatient.  
Patient was continued on twice a day IV pantoprazole while 
inpatient and switched to oral regimen prior to discharge.   
Active type and screen completed as well as two large bore iv's 
placed on admission.  Trended patient's hematocrit daily.  
Baseline Hct was difficult to determine as has fluctuated 
dramatically during previous hospitalizations, however remained 
stable through this hospitalization.  Iron studies, B12 and 
folate all within normal limits.  The patient was on iron 
therapy prior to admission, held per GI for colonoscopy ease.  
The patient was restarted on iron prior to discharge.  
Haptoglobin was found to be less than 20 on three separate 
occasions.  This finding points towards hemolysis of unclear 
etiology, however unknown significance in the setting of 
splenectomy.  The patient was restarted on heparin drip 
initially then coumadin when patient no longer reported melena 
or hematochezia.  We held the patient's aspirin during the 
hospitalization.  As discussed further below, the patient should 
have a discussion with his primary care physician as to when to 
restart aspirin therapy.  Propranolol was also held initially 
given the GI bleed, but restarted at home dose prior to 
discharge.  
.
# Right-rib and abdominal pain s/p traumatic injury of fall:  We 
had a low level of concern for intra-abdominal/subcapsular liver 
injury with fall in setting of clinical appearance.  The 
patient's liver function tests were only mildly elevated and the 
history of alcohol use was definitely considered as the 
etiology.  CT scan of the chest, abdomen and pelvis did not show 
any sign of concerning retroperitoneal process, see discussion 
of CT findings below.  Pain most likely result of 
musculoskeletal discomfort.  Pain resolved with tylenol only.  
Patient asymptomatic prior to discharge. 
.  
# CORONARIES:  Recent cardiac cath in ___ showed left dominant 
system revealed 
nonobstructive coronary disease, with no disease in the ___, 
minimal disease in the LAD, the LCX was dominant and had a long 
50% OM1 lesion and LPDA with minimal disease and the RCA with 
diffuse disease.  No active ischemia evident on admission or 
during hospitalization.  One set of cardiac enzymes negative.  
As above, aspirin was held during the hospitalization given the 
recent GI bleed.  Given the patient has significant 
non-obstructive coronary artery disease, the patient should be 
restarted on aspirin therapy in the future.  Encouraged the 
patient to discuss this with his primary care doctor on follow 
up.  As above, initially held propranolol, however restarted 
during hospitalization.  The patient reported he was taking 
propranolol only once daily, we restarted on TID regimen and 
discharged the patient home with this regimen.  We also continue 
the patient's home statin regimen.  
.  
# PUMP: The patient has a EF reduced by recent intra-operative 
TEE during most recent aortic valve replacement.  The patient 
was monitored for signs of congestive heart failure and volume 
overload.  The patient remained euvolemic during the 
hospitalization and did not require diuretic therapy.  We 
continued the propanolol as above.   
.  
# RHYTHM: The patient has a history of sinus tachycardia, 
however remained in normal sinus rhythm during hospitalization.  
He was monitored continuously on telemetry.  The patient was 
continued on propranolol as above.
.  
# Mechanical AVR:  The patient has a history of congenital 
bicuspid aortic valve, s/p three valve replacements.  Most 
recent valve is a St. ___ valve.  The patient was therapeutic 
with regards to his coumadin dosing on admission, however 
coumadin held for GI bleed.  Heparin drip was initiated, then 
coumadin added when procedures completed.  The patient was 
initially loaded with coumadin at a dose of 10mg per day, thus 
was bridged for one day while INR therapeutic on heparin drip 
prior to discontinuing the heparin.  The patient was discharged 
on his home dose of coumadin 4mg every day with the instruction 
to follow up with his ___ clinic for frequent checks.  We 
monitored his INR daily while inpatient.  Patient was 
therapeutic for two days prior to discharge.
.  
# Abdominal lymphadenopathy:  Patient had known abdominal 
lymphadenopathy in the setting of traumatic splenectomy.  The 
patient has been followed by Dr. ___ the lymphadenopathy. 
 During his hospitalization a CT Abd Pelvis was completed for 
evaluation of flank pain and to monitor progression of 
lymphadenopathy.  A renal mass was noted on the CT scan.  
Urology, Dr. ___, was consulted for further evaluation of 
possible urothelial malignancy.  While the patient was off 
coumadin, a cystoscopy was performed.  The mass noted on CT scan 
was noted on cystoscopy to be a prominent papilla of the renal 
parenchyma.  There was no evidence of urothelial malignancy on 
the cystoscopy or by cytology of the bladder washings.  The 
patient did experience hematuria following the cystoscopy.  This 
was as suspected as the patient although was not on coumadin, 
was on heparin drip at the time of the procedure.  The patient 
had no symptoms of dysuria, urgency, hesitancy or failure to 
complete voiding during the time of hematuria.  The patient was 
instructed to follow up with Dr. ___ week of discharge.  

.
# Depression: Stable on admission.  Continued home regimen of 
lexapro throughout hospital course.  
.  
# EtOH abuse: Per patient's history, however alcohol level on 
admission was zero.  We monitored the patient for signs of 
withdrawal and maintained the patient on a CIWA scale, given his 
history of post-op delirium, however the patient did not require 
the use of any benzodiazepines.  The patient was started on 
thiamine and folic acid on admission. This regimen was continued 
throughout the hospitalization.
.  
FEN: The patient was maintained on a heart healthy, regular 
diet.  Repleted electrolytes as needed.
.  
ACCESS: two large bore peripheral IV's
.  
PROPHYLAXIS:  initially therapeutic on coumadin, then heparin 
drip.
.  
CODE STATUS:  FULL
.  
CONTACT: Patient, daughter ___ ___  
 
___ on Admission:
Atorvastatin 40 mg  
Lexapro 20 mg  
propanolol 10mg daily  
ranitidine 150 mg  
coumadin 4mg hs  
aspirin 81 mg  
iron sulfate 325  
folate 1 mg  
multivitamin
 
Discharge Medications:
1. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Escitalopram 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. Propranolol 10 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).
Disp:*90 Tablet(s)* Refills:*2*
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
5. Coumadin 4 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Iron (Ferrous Sulfate) 325 mg (65 mg Iron) Tablet Sig: One 
(1) Tablet PO once a day.  
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
9. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
GI Bleed secondary to gastritis 
. 
Secondary Diagnosis: 
___ Aortic Valve replacement 
Depression 
abdominal lymphadenopathy 

 
Discharge Condition:
good.

 
Discharge Instructions:
You were admitted to ___ for evaluation of a gastrointestinal 
bleed.  You had an upper GI endoscopy and colonoscopy to look 
for a source of your bleeding.  It was determined that you have 
gastritis which was likely the source of your gastrointestinal 
bleed.  You were started on a new medication, pantoprazole 40mg 
which you should continue to take twice a day.  
.
While you were here, your abdominal lymphadenopathy was 
evaluated by CT scan.  It was found to be stable.  You were 
found to have a small defect in your kidney, however a 
cystoscopy was done by the Urology team which was determined to 
be normal.  You had some blood in your urine after the procedure 
which is most likely from the blood thinners you were given. You 
should follow up with Dr. ___ Urology this week 
regarding this hematuria.
.
These medications were added:  Pantoprazole 40mg by mouth twice 
a day and thiamine 100mg by mouth once a day.
.
These medications were discontinued, do not take them when you 
are discharged:  Ranitidine and aspirin 
.
If you experience continued dark tarry stools, bright red blood 
per rectum, abdominal pain, worsening blood in your urine, chest 
pain, shortness of breath or any other worrisome symptom please 
seek medical attention.
 
Followup Instructions:
___